US05478942
(19) 1-[6-(4-cyano-phenyl)-3-pyridazinyl]-imidazolidin-2-one
Prepared from imidazolidin-2-one and 3-chloro-6-(4-cyano-phenyl)-pyridazine in dimethylsulphoxide Rf value: 0.30 (silica gel; methylene chloride/methanol=19:1)

reactant | imidazolidin-2-one | N1C(NCC1)=O | C3H6N2O
reactant | 3-chloro-6-(4-cyano-phenyl)-pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C#N | C11H6ClN3
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 1-[6-(4-cyano-phenyl)-3-pyridazinyl]-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)C1=CC=C(N=N1)N1C(NCC1)=O | C14H11N5O
